US08541411B2
c) methyl 3-amino-5-(4-morpholinyl)-2-nitrobenzoate
A mixture of combined batches of methyl 3-amino-5-chloro-2-nitrobenzoate (39 g), morpholine (29.5 g) and K2CO3 (47 g) was stirred in DMF (200 ml) at 110° C. for 5 h. The mixture was cooled to room temperature and poured into water (1 L). It was extracted with EtOAc (500 mL×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in-vacuo to afford the desired product as a yellow solid (22 g, yield 46%). 1H NMR (300 MHz, CDCl3): δ ppm 3.31 (t, 4H, J=4.8 Hz), 3.82 (t, 4H, J=4.8 Hz), 3.89 (s, 3H), 6.03 (d, 1H, J=2.4 Hz), 6.34 (d, 1H, J=2.4 Hz); LC-MS: m/e=282 [M+1]+.

reactant | methyl 3-amino-5-chloro-2-nitrobenzoate | 39 g | NC=1C(=C(C(=O)OC)C=C(C1)Cl)[N+](=O)[O-] | C8H7ClN2O4
reactant | morpholine | 29.5 g | N1CCOCC1 | C4H9NO
reactant | K2CO3 | 47 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 1 L | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | methyl 3-amino-5-(4-morpholinyl)-2-nitrobenzoate | 22 g, yield 46% | NC=1C(=C(C(=O)OC)C=C(C1)N1CCOCC1)[N+](=O)[O-] | C12H15N3O5
